* 经典24管D触发器
.subckt tgff d q clk vdd vss
* 控制信号 ckl ckn
Xinv_1 clk ckn vdd vss inv_size_1
Xinv_2 ckn ckl vdd vss inv_size_1
* master 
Xinv_3    d   m1 vdd vss inv_size_1
Xtg_1    m1   m2 ckn ckl vdd vss tg
Xinv_4   m2 temp vdd vss inv_size_1
Xinv_5 temp   m3 vdd vss inv_size_1
Xtg_2    m3   m2 ckl ckn vdd vss tg
* slave
Xtg_3  temp   s1 ckl ckn vdd vss tg
Xinv_6   s1   s2 vdd vss inv_size_1
Xinv_7   s2    q vdd vss inv_size_1
Xinv_8   s2   s3 vdd vss inv_size_1
Xtg_4    s3   s1 ckn ckl vdd vss tg
.ends tgff
